US05908858
68(i) N-(4-Propoxybenzylidene)-4-sulfamoylaniline
Following a procedure similar to that described in Example 1(i), but using 4-propoxybenzaldehyde and 4-sulfamoylaniline as starting materials, the title compound was obtained as a pale yellow powder (yield 84%)

reactant | 4-propoxybenzaldehyde | C(CC)OC1=CC=C(C=O)C=C1 | C10H12O2
reactant | 4-sulfamoylaniline | S(N)(=O)(=O)C1=CC=C(N)C=C1 | C6H8N2O2S
product | N-(4-Propoxybenzylidene)-4-sulfamoylaniline | C(CC)OC1=CC=C(C=NC2=CC=C(C=C2)S(N)(=O)=O)C=C1 | C16H18N2O3S
